US04045438
To 25.3 m mole of 3-[(acetyloxy)methyl]-7-[[2-[4-(azidomethyl)phenyl]-2-carboxyacetyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid in 35 ml dioxane is added 6N hydrochloric acid to give a pH of 2.5. Then 24.1 m moles N,N'-dicyclohexylcarbodiimide in 35 ml dioxane is added and the mixture is stirred at room temperature for 15 to 20 minutes followed by the addition of 24.1 m moles of 5-indanol. The mixture is stirred for 4 hours. The formed N,N'-dicyclohexylurea is removed by filtration and the filtrate is extracted 3 times with methyl isobutyl ketone. The organic extract is washed with water, dried over magnesium sulfate and concentrated to dryness in vacuo to yield 3-[(acetyloxy)methyl]-7-[[2-[4-(azidomethyl)phenyl]-2-(5-indanyloxycarbonyl]acetyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid.

reactant | 3-[(acetyloxy)methyl]-7-[[2-[4-(azidomethyl)phenyl]-2-carboxyacetyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | C(C)(=O)OCC1=C(N2C(C(C2SC1)NC(C(C(=O)O)C1=CC=C(C=C1)CN=[N+]=[N-])=O)=O)C(=O)O | C20H19N5O8S
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | N,N'-dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 5-indanol | C1CCC2=CC(=CC=C12)O | C9H10O
solvent | dioxane | 35 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 35 ml | O1CCOCC1 | C4H8O2
product | 3-[(acetyloxy)methyl]-7-[[2-[4-(azidomethyl)phenyl]-2-(5-indanyloxycarbonyl]acetyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | C(C)(=O)OCC1=C(N2C(C(C2SC1)NC(C(C(=O)OC=1C=C2CCCC2=CC1)C1=CC=C(C=C1)CN=[N+]=[N-])=O)=O)C(=O)O | C29H27N5O8S
